US05256675
To a mixture of 2-acetylamino-5-(4-nitrophenylthio)thiazole (2.8 g) and ammonium chloride (0.3 g) in a mixture of ethanol (60 ml), water (30 ml) and tetrahydrofuran (20 ml) was portionwise added the iron powder (3 g) at 80° C. with stirring. The mixture was refluxed for 2.5 hours with stirring. The reaction mixture was filtered by suction and the filtrate was concentrated under reduced pressure. The residue was triturated with water, the precipitates were collected by filtration, washed with water and dried in vacuo to give 2-acetylamino-5-(4-aminophenylthio)thiazole (2.0 g, yield: 79.5%). mp: 255°-257° C. (dec.)

reactant | 2-acetylamino-5-(4-nitrophenylthio)thiazole | 2.8 g | C(C)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3S2
reactant | ammonium chloride | 0.3 g | [Cl-].[NH4+]
reactant | water | 30 ml | O | H2O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | iron | 3 g | [Fe] | Fe
product | 2-acetylamino-5-(4-aminophenylthio)thiazole | 2.0 g, yield: 79.5% | C(C)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)N | C11H11N3OS2
